US08877801B2
To a solution of (E)-ethyl 3-(4-hydroxyphenyl)-2-methylacrylate (92 mg, 0.445 mmol) in DMF (2.0 mL) was added sodium hydride (60% suspension in oil, 17.79 mg, 0.445 mmol), the resulting mixture was allowed to stir for 30 min at room temperature. To the solution was added 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide (125 mg, 0.342 mmol) as a suspension in DMF (2.0 mL). The reaction was heated to 80° C. for 15 h. Upon completion the reaction was cooled to room temperature, quenched with water and extracted with EtOAc. The combined organic layers were then washed with water, sat. aq. NaHCO3, brine and then collected (phase separator) and concentrated in vacuo to afford the crude product. The crude material was purified by column chromatography (SiO2, 0-70% EtOAc/Heptane) to afford (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate (144 mg, 0.294 mmol, 86% yield). LC/MS (m/z, MH+): 491.3

reactant | (E)-ethyl 3-(4-hydroxyphenyl)-2-methylacrylate | 0.445 mmol, 92 mg | OC1=CC=C(C=C1)/C=C(/C(=O)OCC)\C | C12H14O3
reactant | sodium hydride | 0.445 mmol, 17.79 mg | [H-].[Na+]
reactant | 3-bromo-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene 1-oxide | 0.342 mmol, 125 mg | BrC=1C2=C(S(C1C1=CC=C(C=C1)OC)=O)C=C(C=C2)OC | C16H13BrO3S
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | (E)-ethyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)phenyl)-2-methylacrylate | 0.294 mmol, 144 mg, 86% yield | COC=1C=CC2=C(S(C(=C2OC2=CC=C(C=C2)/C=C(/C(=O)OCC)\C)C2=CC=C(C=C2)OC)=O)C1 | C28H26O6S
